US07262206B2
(23) 1,5-diacetyl-3-[(pyrazin-2-yl)-hydroxy-methylidene]-2-indolinone
Prepared from 1,5-diacetyl-2-indolinone and pyrazine-2-carboxylic acid

reactant | 1,5-diacetyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C12H11NO3
reactant | pyrazine-2-carboxylic acid | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
product | 1,5-diacetyl-3-[(pyrazin-2-yl)-hydroxy-methylidene]-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(O)C1=NC=CN=C1)=O | C17H13N3O4
